US07598391B2
1-(1-Butyryl-piperidin-4-yl)-1-cyclohexyl-3-(5-methylsulfanyl-thiazol-2-yl)-urea
Prepared as described in general procedure (H) and (I) using 1-(1-butyryl-piperidin-4-yl)-1-(4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and methyliodide.

reactant | 1-(1-butyryl-piperidin-4-yl)-1-(4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea | C(CCC)(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)SC#N)C1CCC(CC1)C | C21H31N5O2S2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | methyliodide | CI | CH3I
product | 1-(1-Butyryl-piperidin-4-yl)-1-cyclohexyl-3-(5-methylsulfanyl-thiazol-2-yl)-urea | C(CCC)(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)SC)C1CCCCC1 | C20H32N4O2S2
